* NGSPICE file created from gf180mcu_ocd_sc_rt12t3v3__ant.ext - technology: gf180mcuD

.subckt gf180mcu_ocd_sc_rt12t3v3__ant A VDD VSS
R0 VDD.n12 VDD.n8 193.825
R1 VDD.n16 VDD.n8 193.103
R2 VDD.n17 VDD.n16 193.103
R3 VDD.n18 VDD.n17 193.103
R4 VDD.n18 VDD.n5 193.103
R5 VDD.n15 VDD.n9 9.8005
R6 VDD.n15 VDD.n0 9.8005
R7 VDD.n19 VDD.n0 9.8005
R8 VDD.n21 VDD.n20 9.8005
R9 VDD.n10 VDD.n7 9.8005
R10 VDD.n7 VDD.n2 2.75725
R11 VDD.n1 VDD.n4 9.8005
R12 VDD.n13 VDD.n12 7.68599
R13 VDD.n12 VDD.n11 7.68599
R14 VDD.n3 VDD.n19 2.17736
R15 VDD.n23 VDD.n4 6.6505
R16 VDD VDD.n23 6.3005
R17 VDD.n21 VDD 6.3005
R18 VDD.n20 VDD 6.3005
R19 VDD.n9 VDD.n8 6.3005
R20 VDD.n16 VDD.n15 6.3005
R21 VDD.n15 VDD.n14 6.3005
R22 VDD.n17 VDD.n0 6.3005
R23 VDD VDD.n0 6.3005
R24 VDD.n19 VDD.n18 6.3005
R25 VDD.n3 VDD 2.06282
R26 VDD.n18 VDD.n4 6.3005
R27 VDD.n4 VDD 6.3005
R28 VDD.n17 VDD.n1 6.3005
R29 VDD.n2 VDD.n1 2.75725
R30 VDD.n16 VDD.n7 6.3005
R31 VDD VDD.n2 1.77287
R32 VDD.n10 VDD.n8 6.3005
R33 VDD.n23 VDD.n22 2.75725
R34 VDD.n3 VDD.n6 4.93411
R35 VDD.n22 VDD.n21 2.75725
R36 VDD.n20 VDD.n6 2.75725
R37 VDD.n13 VDD.n9 2.73055
R38 VDD.n11 VDD.n10 2.73055
R39 VDD.n14 VDD.n13 2.03587
R40 VDD.n11 VDD 2.03587
R41 VDD.n22 VDD.n5 1.77287
R42 VDD.n6 VDD.n5 1.77287
R43 VDD.n14 VDD 1.3325
R44 VSS.n11 VSS.n9 627.971
R45 VSS.n17 VSS.n5 627.587
R46 VSS.n14 VSS.n5 627.587
R47 VSS.n14 VSS.n9 627.587
R48 VSS.n18 VSS.n4 10.8894
R49 VSS.n16 VSS.n2 2.66071
R50 VSS.n13 VSS.n3 10.8894
R51 VSS.n13 VSS.n10 10.8894
R52 VSS.n15 VSS.n0 2.66071
R53 VSS.n15 VSS.n8 10.8894
R54 VSS.n18 VSS.n3 7.38939
R55 VSS.n16 VSS.n1 7.38939
R56 VSS.n12 VSS.n11 7.17778
R57 VSS.n11 VSS.n7 7.17778
R58 VSS.n17 VSS.n16 5.2005
R59 VSS.n2 VSS 1.27115
R60 VSS.n2 VSS.n6 5.32092
R61 VSS.n4 VSS 5.2005
R62 VSS.n18 VSS.n17 5.2005
R63 VSS VSS.n18 5.2005
R64 VSS.n5 VSS.n3 5.2005
R65 VSS.n3 VSS 5.2005
R66 VSS.n14 VSS.n13 5.2005
R67 VSS.n13 VSS 5.2005
R68 VSS.n10 VSS.n9 5.2005
R69 VSS.n9 VSS.n8 5.2005
R70 VSS.n15 VSS.n14 5.2005
R71 VSS.n1 VSS.n5 5.2005
R72 VSS.n0 VSS.n1 2.66071
R73 VSS.n6 VSS.n4 2.66071
R74 VSS.n12 VSS.n10 2.63361
R75 VSS.n8 VSS.n7 2.63361
R76 VSS VSS.n0 2.16489
R77 VSS VSS.n7 1.53032
R78 VSS VSS.n12 1.53032
R79 VSS.n17 VSS.n6 1.27115
C0 A VDD 0.34133f
C1 A VSS 0.35553f
C2 VDD VSS 1.73968f
.ends

